US08293909B2
6-Bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylic acid (250 mg, 0.746 mmol) was slurried into DCE (8 mL) and then oxalyl chloride (0.30 mL, 3.4 mmol) was added and the slurry was stirred for 5 min. Then DMF (50 μL, 0.65 mmol) was added (foaming) and the slurry was stirred 1 h before methanamine (5 mL, 10 mmol) 2M in THF (exothermic) and TEA (˜3 mL) (exothermic) were added. The reaction was stirred at rt overnight. The reaction was partitioned between water (˜30 mL) and DCM/MeOH (9/1, 3×30 mL). The combined organics were concentrated to dryness and the residue was slurried in MeOH/EtOAc (1:1 ˜40 mL) and filtered to collect 6-bromo-2-(4-fluorophenyl)-N-methylimidazo[1,2-a]pyridine-3-carboxamide (172 mg, 0.494 mmol, 66% yield) as a white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.92 (s, 1H), 8.25 (s, 1H), 7.85 (d, J=7.9 Hz, 1H), 7.83 (d, J=7.9 Hz, 1H), 7.69 (d, J=9.5 Hz, 1H), 7.56 (d, J=9.5 Hz, 1H), 7.33 (d, J=8.5 Hz, 1H), 7.31 (d, J=8.5 Hz, 1H), 2.79 (d, J=4.0 Hz, 3H). LC-MS retention time 1.73 min; m/z 348, 350 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 10 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | 6-Bromo-2-(4-fluorophenyl)imidazo[1,2-a]pyridine-3-carboxylic acid | 0.746 mmol, 250 mg | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C(=O)O | C14H8BrFN2O2
reactant | oxalyl chloride | 3.4 mmol, 0.30 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.65 mmol, 50 μL | CN(C)C=O | C3H7NO
reactant | methanamine | 10 mmol, 2M, 5 mL | CN | CH5N
solvent | THF | C1CCOC1 | C4H8O
solvent | DCE | 8 mL | ClCCCl | C2H4Cl2
product | 6-bromo-2-(4-fluorophenyl)-N-methylimidazo[1,2-a]pyridine-3-carboxamide | 0.494 mmol, 172 mg, 66% yield | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)F)C(=O)NC | C15H11BrFN3O
